US04284644
Spiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (7.0 g.) was added in small portions to fuming nitric acid (70 ml.) previously cooled to -50° C. to -60° C. After stirring for 20 minutes, the reaction mixture was poured into ice-water and the precipitated crystals were collected by filtration, washed with water and recrystallized from ethanol. By the above procedure there was obtained 5-nitrospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one as colorless prisms, m.p. 107°-110° C. Yield 7.3 g. This product was in good agreement with the crystals obtained in Example 18.

reactant | Spiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 7.0 g | C12(CC1)C(C1=C(O2)C=CC=C1)=O | C10H8O2
reactant | nitric acid | 70 ml | [N+](=O)(O)[O-] | HNO3
product | 5-nitrospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | [N+](=O)([O-])C1=CC2=C(OC3(CC3)C2=O)C=C1 | C10H7NO4
